US08703961B2
705 mg (2.00 mmol) of tert-butyl N-{2-chloro-5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl}carbamate are dissolved in a mixture of 4 ml of DMF, 2 ml of water and 8 ml of DME together with 663 mg (3.00 mmol) of pinacolyl 2-amino-pyrimidine-5-boronate, and 829 mg (6.00 mmol) of potassium carbonate and 81 mg (0.10 mmol) of Pd(dppf)2Cl2.CH2Cl2 are introduced. Argon is subsequently passed through the reaction mixture for 10 min, the vessel is sealed and heated at 85° C. for 44 h. After cooling, the reaction mixture is extracted twice with saturated NaCl solution, and the aqueous phases are extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate, evaporated in vacuo, and the residue is purified by flash chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1/2; 1% of triethylamine), giving 205 mg (0.49 mmol, 25%) of tert-butyl N-[2-(2-aminopyrimidin-5-yl)-5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl]carbamate as yellow solid; m.p. 201-203;

reactant | tert-butyl N-{2-chloro-5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl}carbamate | 2.00 mmol, 705 mg | ClC=1SC(=C(N1)NC(OC(C)(C)C)=O)C#CC1=CC=C(C=C1)F | C16H14ClFN2O2S
reactant | pinacolyl 2-amino-pyrimidine-5-boronate | 3.00 mmol, 663 mg | NC1=NC=C(C=N1)B(OC(C)C(C)(C)C)[O-]
reactant | potassium carbonate | 6.00 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 2 ml | O | H2O
solvent | DME | 8 ml | COCCOC | C4H10O2
catalyst | Pd(dppf)2Cl2 | 0.10 mmol, 81 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl N-[2-(2-aminopyrimidin-5-yl)-5-[2-(4-fluorophenyl)ethynyl]-1,3-thiazol-4-yl]carbamate | 0.49 mmol, 205 mg, 25% | NC1=NC=C(C=N1)C=1SC(=C(N1)NC(OC(C)(C)C)=O)C#CC1=CC=C(C=C1)F | C20H18FN5O2S
